US08748613B2
Preparation of (R)-quinuclidin-3-yl 2-(2,4-difluorophenyl)-2-(piperidin-1-yl)acetate (C102)
2-(2,4-Difluorophenyl)-2-(piperidin-1-yl)acetic acid (304 mg, 1.19 mmol), DCC (491 mg, 2.38 mmol), and HOBT (365 mg, 2.38 mmol) were dissolved in dry THF (12 ml). (R)-quinuclidin-3-ol (454 mg, 3.57 mmol) was added and the mixture was stirred at room temperature for 16 hours. THF was evaporated and the residue was taken up with EtOAc and washed with sat. NaHCO3. The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The crude was purified by flash chromatography (DCM/MeOH=9/1+0.1% NH4OH) to obtain the title product as colorless oil (280 mg, 64.5% yield).

reactant | 2-(2,4-Difluorophenyl)-2-(piperidin-1-yl)acetic acid | 1.19 mmol, 304 mg | FC1=C(C=CC(=C1)F)C(C(=O)O)N1CCCCC1 | C13H15F2NO2
reactant | DCC | 2.38 mmol, 491 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 2.38 mmol, 365 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 3.57 mmol, 454 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(2,4-difluorophenyl)-2-(piperidin-1-yl)acetate | 280 mg, 64.5% yield | FC1=C(C=CC(=C1)F)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H26F2N2O2
